US05753634
I. Synthesis of Dihydro-6-diethoxyphosphinyl-1-pyrindine-6-sulfonic acid, ethyl ester
To an ice bath chilled solution of 35% potassium hydride in mineral oil (5.0 mmol) stirring under argon DMSO (7 ml) is added a solution of diethoxyphosphinyl methanesulfonic acid, ethyl ester (2.5 mmol) [prepared as described in J. C. Carretero, et. al., Tetrahedron, Vol. 43, pp. 5125-5134 (No. 21) 1987] in DMSO (5 ml). On completion of a dropwise addition, the resulting solution is stirred at room temperature for one hour. A solution of 2,3-bis(chloromethyl)pyridine (2.5 mmol) [prepared as described in K. Tsuda, et. al., Chem. Pharm. Bull., Vol.1, pp. 142, 1953] in DMSO (2 ml) is added slowly and the reaction mixture is then heated at 90° C. for 1 hour. After cooling, the reaction mixture is concentrated under reduced pressure and the desired product is purified by flash chromatography using a 5-15% isopropanol in methylene chloride gradient on silica gel.

reactant | potassium hydride | [H-].[K+]
reactant | diethoxyphosphinyl methanesulfonic acid, ethyl ester | 2.5 mmol | C(C)OP(=O)(OCC)CS(=O)(=O)OCC | C7H17O6PS
reactant | 2,3-bis(chloromethyl)pyridine | 2.5 mmol | ClCC1=NC=CC=C1CCl | C7H7Cl2N
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | Dihydro-6-diethoxyphosphinyl-1-pyrindine-6-sulfonic acid, ethyl ester | C(C)OP(=O)(C1(C=C2C=CCNC2=C1)S(=O)(=O)OCC)OCC | C14H22NO6PS
